US06486333B1
Synthesis of N-acetyl-N′,N′-dimethyl-1,3-diaminopropane
A 51.1 g (0.50 mol) portion of N,N-dimethyl-1,3-diaminopropane was put into a flask and cooled to 5° C. while stirring in an atmosphere of nitrogen. Under ice-cooling, to this was added dropwise 51.1 g (0.50 mol) of acetic anhydride spending 1 hour. After completion of the dropwise addition, this was further stirred at 25° C. for 3 hours. Thereafter, the reaction mixture was again ice-cooled and 41.6 g (0.5 mol) of 48% sodium hydroxide aqueous solution was added dropwise thereto spending 15 minutes and then, after completion of the dropwise addition, 350 ml of acetone was added to the reaction mixture and allowed to stand at room temperature for 8 hours. Sodium acetate precipitated in the acetone solution was removed by filtration, acetone was evaporated under a reduced pressure and then 71 g of the remaining yellow oil was distilled under a reduced pressure to obtain the title compound as a transparent oil. Yield 62.4 g (0.433 mol; yield 86.8%, boiling point 116-118° C./0.64 kPa).

reactant | N,N-dimethyl-1,3-diaminopropane | CN(CCCN)C | C5H14N2
reactant | acetic anhydride | 0.50 mol, 51.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 0.5 mol, 41.6 g | [OH-].[Na+]
solvent | acetone | 350 ml | CC(=O)C | C3H6O
product | N-acetyl-N′,N′-dimethyl-1,3-diaminopropane | yield 86.8% | C(C)(=O)NCCCN(C)C | C7H16N2O
